US05532243
Trans-2-Benzyl-6-(4'-fluorophenyl)-6-hydroxydecahydroisoquinoline
A solution of trans-2-benzoyl-6-(4'-fluorophenyl)-6-hydroxydecahydroisoquinolone (76 mg, 2.16 mmol) in anhydrous THF (20 mL) was added dropwise to a stirred suspension of lithium aluminum hydride (95%, 0.49 g, 12.9 mmol) in anhydrous THF (20 mL) under a nitrogen atmosphere. The reaction mixture was then heated to reflux temperature and stirred for 23.5 h. The reaction was cooled to ambient temperature, quenched with an excess amount of ethyl acetate, followed by water (0.5 mL), a 2N NaOH solution (0.5 mL) and water (1.5 mL). The mixture was filtered through Celite. The filtrate was dried over magnesium sulfate, filtered and concentrated in vacuo. Column chromatography (ethyl acetate or CHCl3 ::MeOH::9:1) gave the product, a solid (382 mg): mp 120°-122° C.; NMR (CDCl3, 300 MHz): 7.45 (2H, dd, J=8, 6), 7.4-7.2 (m, 5H), 7.0 (br t, 2H, J=7), 3.55 (s, 2H), 2.95 (br d, 1H, J=7), 2.85 (br d, 1H, J=7), 2.05 (br t, 1H, J=7), 1.9-1.2 (m, 12H); HRMS: Calcd: 339.1999, Found: 339.2001; Anal. Calcd for C22H26FNO: C, 77.84, H, 7.72, N, 4.13, F, 5.60, Found: C, 77.41, 77.16, H, 7.74, N, 4.19 3.97, F, 5.78.

reactant | trans-2-benzoyl-6-(4'-fluorophenyl)-6-hydroxydecahydroisoquinolone | 2.16 mmol, 76 mg | C(C1=CC=CC=C1)(=O)N1C([C@@H]2CCC(C[C@H]2CC1)(O)C1=CC=C(C=C1)F)=O | C22H22FNO3
reactant | lithium aluminum hydride | 12.9 mmol, 0.49 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Trans-2-Benzyl-6-(4'-fluorophenyl)-6-hydroxydecahydroisoquinoline | C(C1=CC=CC=C1)N1C[C@@H]2CCC(C[C@H]2CC1)(O)C1=CC=C(C=C1)F | C22H26FNO
